US07034039B2
(E)-3-[3-[[(Tert-butoxycarbonyl)amino]methyl]-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide (0.10 g, 0.2 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml) and, the mixture was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give (E)-3-[3-(aminomethyl)-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1.2-dihydro-6-isoquinolinyl]-2-propenamide hydrochloride (0.08 g, 88.8%) as crystals.

reactant | (E)-3-[3-[[(Tert-butoxycarbonyl)amino]methyl]-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide | 0.2 mmol, 0.10 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)F)/C=C/C(=O)N)=O)CC(C)C | C28H32FN3O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (E)-3-[3-(aminomethyl)-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1.2-dihydro-6-isoquinolinyl]-2-propenamide hydrochloride | 0.08 g, 88.8% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)F)/C=C/C(=O)N)=O)CC(C)C | InChI=1S/C23H24FN3O2.ClH/c1-14(2)13-27-20(12-25)22(16-5-7-17(24)8-6-16)19-11-15(4-10-21(26)28)3-9-18(19)23(27)29;/h3-11,14H,12-13,25H2,1-2H3,(H2,26,28);1H/b10-4+;
